US07384931B2
(R)-N-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)-N′-cyano-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamidine.
(R)-7-Amino-4-chloro-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one (130 mg, 390.7 μmol) was dissolved in N,N-dimethylformamide (5.0 mL). N,N-Diisopropylethylamine (200 μL, 1.1 mmol) was added to the mixture followed by diphenyl N-cyanocarbonimidate (100 mg, 407.1 μmol). Mixture stirred at room temperature for 40 minutes. 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride (125 mg; 472.1 μmol) was added to the vessel with stirring. The mixture was heated to 100° C. and held for 54 hr with stirring. Mixture was cooled to room temperature and then diluted with methanol. Mixture was filtered. Filtrate was purified by reverse phase prep HPLC (acetonitrile-water-ammonium acetate). Acetonitrile was removed from the fractions by roto-vap. Remaining aqueous was diluted with water. Solids were filtered off and washed with water. Air was pulled through the filter cake for 2 hours. Solids were collected and then dried in vacuo. Title compound was obtained as tan solid in 33% yield. 1H NMR (500 MHz, DMSO-D6) δ ppm 13.62 (s, 1 H) 11.79 (s, 1 H) 8.35 (s, 1H) 7.73 (s, 1 H) 7.66 (d, J=7.94 Hz, 1H) 7.53 (d, J=7.93 Hz, 1H) 7.44 (t, J=7.63 Hz, 1 H) 7.25-7.33 (m, 2 H) 7.16 (t, J=7.48 Hz, 1 H) 5.59-5.71 (m, 1 H) 5.40 (d, J=17.40 Hz, 1 H) 4.90 (d, J=17.70 Hz, 1 H) 4.59-4.77 (m, 1 H) 4.27 (d, J=13.12 Hz, 2H) 4.00-4.15 (m, 1 H) 3.33-3.42 (m, 1 H) 3.03-3.26 (m, 4 H) 1.86-1.98 (m, 2) 1.54-1.71 (m, 2 H). High resolution MS m/e (M+H)+=611.1890.

reactant | (R)-7-Amino-4-chloro-9-(2,2,2-trifluoroethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 390.7 μmol, 130 mg | N[C@@H]1CC2=C(C=3C=NNC3C(=C2)Cl)CN(C1=O)CC(F)(F)F | C13H12ClF3N4O
reactant | N,N-Diisopropylethylamine | 1.1 mmol, 200 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenyl N-cyanocarbonimidate | 407.1 μmol, 100 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 3-(Piperidin-4-yl)quinolin-2(1H)-one hydrochloride | 472.1 μmol, 125 mg | Cl.N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | (R)-N-(4-chloro-8-oxo-9-(2,2,2-trifluoroethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)-N′-cyano-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamidine | 33% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)NC(=NC#N)N2CCC(CC2)C=2C(NC1=CC=CC=C1C2)=O)=O)CC(F)(F)F | C29H26ClF3N8O2
